US08420626B2
a. N-diethoxyphosphoryl-3,3′-iminodipropyl cyanide
3,3′-Iminodipropyl cyanide (50 mmol) was dissolved in dichloromethane (100 ml). To the system was added triethylamine (10 ml), and then dropwise added at room temperature diethoxyphosphoryl chloride (50 mmol) in dicholormethane (60 ml) solution. The mixture was allowed to react at room temperature over night. The resultant was concentrated and performed to column chromatography (eluant: dichloromethane/methanol system) to obtain 9.7 g of a colorless transparent oily substance, yield 75%, MS[M]+=259.2 m/e.

reactant | 3,3′-Iminodipropyl cyanide | 50 mmol | N(CCCC#N)CCCC#N | C8H13N3
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | diethoxyphosphoryl chloride | 50 mmol | C(C)OP(=O)(OCC)Cl | C4H10ClO3P
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-diethoxyphosphoryl-3,3′-iminodipropyl cyanide | yield 75% | C(C)OP(=O)(OCC)N(CCCC#N)CCCC#N | C12H22N3O3P
